* C:\Users\nanda\OneDrive\Documents\LTspice\2 stage opamp.asc
* Generated by LTspice 24.1.9 for Windows.
VDD Vdd 0 1.8v
M3 Vdd N005 N005 N003 CMOSP l=500n w=4.75u
M4 Vdd N005 N002 N004 CMOSP l=500n w=4.75u
M1 N005 N006 N008 0 CMOSN l=500n w=3.09u
M2 N002 N007 N008 0 CMOSN l=500n w=3.09u
V1 N006 0 SINE(0.8) AC 1V
V2 N007 0 SINE(0.8)
M0 N010 N010 0 N011 CMOSN l=500n w=2.85u
M5 N008 N010 0 N012 CMOSN l=500n w=2.85u
I1 Vdd N010 20µA
C1 Vout N002 800f
M6 Vdd N002 Vout N001 CMOSP l=500n w=63u
M7 Vout N010 0 N009 CMOSN l=500n w=20u
C2 Vout 0 2pf
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nanda\AppData\Local\LTspice\lib\cmp\standard.mos
.include tsmc180nm.lib
.ac dec 100 1k 100G
.backanno
.end
